US09193707B2
3. Synthesis of (2-(benzyloxy)-3-methylphenyl)methanol
Into a 500-mL 3-necked round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed methyl 2-(benzyloxy)-3-methylbenzoate (40 g, 156.07 mmol, 1.00 equiv) and tetrahydrofuran (300 mL). This was followed by the addition of LiBH4 (15.6 g, 5.00 equiv) in several batches with stirring. The resulting solution was stirred overnight at 60° C. The reaction was then quenched by the addition of 1.5 L of water/ice. The resulting solution was extracted with 2×800 mL of ethyl acetate and the organic layers combined. The resulting mixture was washed with 2×1000 mL of H2O. The mixture was dried over anhydrous sodium sulfate and concentrated under vacuum. This resulted in 30 g (84%) of [2-(benzyloxy)-3-methylphenyl]methanol as light brown oil. 1H NMR (300 MHz, DMSO-d6) δ 2.21 (s, 3H), 4.55-4.57 (m, 2H), 4.83 (s, 2H), 5.05-5.09 (m, 1H), 7.02-7.51 (m, 8H).

reactant | methyl 2-(benzyloxy)-3-methylbenzoate | 156.07 mmol, 40 g, 1.00 equiv | C(C1=CC=CC=C1)OC1=C(C(=O)OC)C=CC=C1C | C16H16O3
reactant | LiBH4 | 15.6 g, 5.00 equiv | [Li+].[BH4-]
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
product | (2-(benzyloxy)-3-methylphenyl)methanol | C(C1=CC=CC=C1)OC1=C(C=CC=C1C)CO | C15H16O2
